data/oMe_Silver.jsonl
{"reaction_id": "NR-122_1-c1ccc(C#N)cc1_2-S(=O)(=O)c1ccccc1_3-c1cnccc1_4-c1occc1","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1cnccc1)c1occc1","C(c1ccc(C#N)cc1)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(c1ccc(C#N)cc1)S(=O)(=O)c1ccccc1)(c1cnccc1)c1occc1"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1cnccc1)c1occc1","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](c1ccc(C#N)cc1)S(=O)(=O)c1ccccc1","rationale": "The basic nitrogen abstracts an acidic α-proton from c1ccc(C#N)cc1–S(=O)(=O)c1ccccc1 methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1cnccc1)c1occc1)(c1ccc(C#N)cc1)S(=O)(=O)c1ccccc1","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1cnccc1)c1occc1)(c1ccc(C#N)cc1)S(=O)(=O)c1ccccc1","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccc(C#N)cc1)S(=O)(=O)c1ccccc1)(c1cnccc1)c1occc1","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
